US09388189B2
a) 3-Methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
3-Bromo-5-methoxyaniline (0.90 g, 4.45 mmol) was treated with bis(pinacolato)diboron (1.70 g, 6.69 mmol), potassium acetate (1.31 g, 13.35 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.36 g, 0.44 mmol) and 24 ml 1,4-dixane as a solvent according to the method described in Preparation 174a. The residue was purified using SP1® Purification System (0% to 40% hexane-ethyl acetate) to obtain 0.69 g (62% yield) of the title compound.

reactant | 3-Bromo-5-methoxyaniline | 4.45 mmol, 0.90 g | BrC=1C=C(N)C=C(C1)OC | C7H8BrNO
reactant | bis(pinacolato)diboron | 6.69 mmol, 1.70 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 13.35 mmol, 1.31 g | C(C)(=O)[O-].[K+]
product | 3-Methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.69 g, 62% yield | COC=1C=C(N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO3
